US05464873
B. Trans-1,2-dimethylcyclohex-1-ene-4,5-dicarboxylic acid
Trans-dimethyl 1,2-dimethylcyclohex-1-ene-4,5-dicarboxylate (4.52 g, 0.02 mol) was refluxed with NaOH (4.0 g, 0.1 mol) in methanol (40 ml) for 4 hr. The solution was allowed to cool and partitioned between aqueous NaOH (2M, 50 ml) and ether (60 ml). The aqueous layer was then acidified (1M HCl) and extracted with ethyl acetate (3×50 ml). The solvent was removed in vacuo to give the title compound in 77% yield. N.m.r: δH (90 MHz CD3Cl3) 2.58 (m,2H), 2.08 (m,4H), 1.70 ppm (s,6H)

reactant | Trans-dimethyl 1,2-dimethylcyclohex-1-ene-4,5-dicarboxylate | 0.02 mol, 4.52 g | CC1=C(C[C@H]([C@@H](C1)C(=O)OC)C(=O)OC)C | C12H18O4
reactant | NaOH | 0.1 mol, 4.0 g | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | Trans-1,2-dimethylcyclohex-1-ene-4,5-dicarboxylic acid | 77% yield | CC1=C(C[C@H]([C@@H](C1)C(=O)O)C(=O)O)C | C10H14O4
